* Ngspice тест: actuator_channel / ACT_CH_REV
* Канал в обратном направлении.
* IN1 = L, IN2 = H → MOTOR_A ≈ GND, MOTOR_B ≈ VCC.
.INCLUDE /home/vitaly-pc/kicad/climate_control_niva_travel/spice/lib/motor_model.lib
.INCLUDE /home/vitaly-pc/kicad/climate_control_niva_travel/spice/lib/drv8871_ngspice.lib
.INCLUDE spice/actuator_channel.sub

* Порты: FB FB_RAW GND ILIM IN1 IN2 MOTOR_A MOTOR_B VCC_12V

* V1: Питание H-моста
V1 VCC_12V 0 DC 14.4

* V2: Логический вход IN1 = лог. 0
V2 IN1 0 DC 0.0

* V3: Логический вход IN2 = лог. 1
V3 IN2 0 DC 3.3

* XM: Тот же моторедуктор заслонки, что и в ACT_CH_FWD.
XM MOTOR_A MOTOR_B SPEED DC_MOTOR R_arm=30 L_arm=50m Ke=40 Kt=0.05 C_inertia=1e-4 R_friction=30
Xactuator_channel FB FB_RAW 0 ILIM IN1 IN2 MOTOR_A MOTOR_B VCC_12V actuator_channel

.op
.control
run
print v(motor_a) v(motor_b) v(speed)
.endc
.end
